US04579862
A solution of 6-bromohexanoyl chloride (10.0 g, 0.047 mol) and 2,2-dimethylpropanol (4.96 g, 0.056 mol) in benzene (100 ml) was heated under reflux for 2 hours. The solvent was evaporated off under reduced pressure and the residue was dissolved in dichloromethane (200 ml), washed with aqueous sodium hydroxide (2M, 50 ml), water (50 ml) and dried (Na2SO4). The solvent was evaporated off under reduced pressure to give the crude product which was further purified by column chromatography (alumina, dichloromethane) to give neopentyl 6-bromohexanoate as a colourless oil.

reactant | 6-bromohexanoyl chloride | 0.047 mol, 10.0 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | 2,2-dimethylpropanol | 0.056 mol, 4.96 g | CC(CO)(C)C | C5H12O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | neopentyl 6-bromohexanoate | BrCCCCCC(=O)OCC(C)(C)C | C11H21BrO2
